US04242510
A solution of 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetic acid (syn isomer, 1.4 g.), dry N,N-dimethylformamide (0.59 ml.) and phosphoryl chloride (1.17 g.) in dry ethyl acetate (12.3 ml.), and a solution of 7-amino-2-methyl-3-cephem-4-carboxylic acid (1.35 g.) and trimethylsilylacetamide (5.75 g.) in ethyl acetate (40 ml.) were treated in a similar manner to that of Example 14 to give 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetamido]-2-methyl-3-cephem-4-carboxylic acid (syn isomer, 1.45 g.)

reactant | 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetic acid | 1.4 g | O1CCSC=C1C(C(=O)O)=NOC | C7H9NO4S
reactant | phosphoryl chloride | 1.17 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-2-methyl-3-cephem-4-carboxylic acid | 1.35 g | NC1[C@@H]2N(C(=CC(S2)C)C(=O)O)C1=O | C8H10N2O3S
reactant | trimethylsilylacetamide | 5.75 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 12.3 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.59 ml | CN(C=O)C | C3H7NO
product | 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetamido]-2-methyl-3-cephem-4-carboxylic acid | 1.45 g | O1CCSC=C1C(C(=O)NC1[C@@H]2N(C(=CC(S2)C)C(=O)O)C1=O)=NOC | C15H17N3O6S2
